US04167568
2-(5-Amino-2-propoxyphenyl)-8-azapurin-6-one (1.43 g), dimethyl acetylenedicarboxylate (0.85 g) and dry methanol (20 ml) were stirred and heated together at reflux for 5 hours. The resulting mixture was then cooled in an ice-bath for 30 minutes and the resulting yellow crystalline precipitate was filtered off and recrystallised from ethanol to give (Z)-2-[5-{1,2-bis(methoxycarbonyl)vinylamino}-2-propoxyphenyl]-8-azapurin-6-one (1.0 g), m.p. 199°-200° C. (with decomposition).

reactant | 2-(5-Amino-2-propoxyphenyl)-8-azapurin-6-one | 1.43 g | NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C13H12N6O2
reactant | dimethyl acetylenedicarboxylate | 0.85 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 20 ml | CO | CH4O
product | (Z)-2-[5-{1,2-bis(methoxycarbonyl)vinylamino}-2-propoxyphenyl]-8-azapurin-6-one | 1.0 g | COC(=O)/C(=C/C(=O)OC)/NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C19H18N6O6
